US07897766B2
Isoquinoline-3-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and isoquinoline-3-carboxylic acid according to methods A and C. 1H NMR (300 MHz, methanol-d4) δ ppm 2.08-2.34 (m, 5H), 2.51 (s, 2H), 3.42-3.64 (m, 4H), 3.88 (d, J=12.5 Hz, 2H), 4.33 (s, 1H), 7.43 (d, J=8.8 Hz, 2H), 7.68 (d, J=8.8 Hz, 2H), 7.93 (d, J=1.4 Hz, 1H), 8.24 (d, J=1.7 Hz, 1H). MS (DCI/NH3) m/z 308. Anal. Calculated for C19H21N3O.HCl: C, 66.37; H, 6.45; N, 12.22. Found: C, 47.6; H, 5.89; N, 8.71.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | isoquinoline-3-carboxylic acid | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | NH3 | N | H3N
product | Isoquinoline-3-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2N=CC3=CC=CC=C3C2 | InChI=1S/C19H21N3O.ClH/c23-19(17-7-13-3-1-2-4-14(13)8-20-17)21-18-15-5-12-6-16(18)11-22(9-12)10-15;/h1-4,7-8,12,15-16,18H,5-6,9-11H2,(H,21,23);1H/t12?,15?,16?,18-;
